US20010041740A1
A mixture of 0.41 g (1.0 mmol) of 3-chloro-N-(2,6-dinitro-4-trifluoromethylphenyl)-2,2,3,3-tetrafluoropropionamide, 0.31 g (1.5 mmol) of phosphorous pentachloride, and 2 ml of toluene was heated under reflux for 6 hours. The reaction mixture was poured into saturated aqueous sodium hydrogencarbonate solution, which was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 3-chloro-N-(2,6-dinitro-4-trifluoromethylphenyl)-2,2,3,3-tetrafluoropropionimidoyl chloride.

reactant | 3-chloro-N-(2,6-dinitro-4-trifluoromethylphenyl)-2,2,3,3-tetrafluoropropionamide | 1.0 mmol, 0.41 g | ClC(C(C(=O)NC1=C(C=C(C=C1[N+](=O)[O-])C(F)(F)F)[N+](=O)[O-])(F)F)(F)F | C10H3ClF7N3O5
reactant | phosphorous pentachloride | 1.5 mmol, 0.31 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | 3-chloro-N-(2,6-dinitro-4-trifluoromethylphenyl)-2,2,3,3-tetrafluoropropionimidoyl chloride | ClC(C(C(=NC1=C(C=C(C=C1[N+](=O)[O-])C(F)(F)F)[N+](=O)[O-])Cl)(F)F)(F)F | C10H2Cl2F7N3O4
